US08492550B2
Step 4: 1-(4-Chlorophenyl)piperidine-4-carbaldehyde
A solution of 1-(4-chlorophenyl)-N-methoxy-N-methylpiperidine-4-carboxamide (200 mg, 0.707 mmol) in anhydrous THF (2 mL) was placed under nitrogen, cooled to −78° C., and treated with diisobutylaluminum hydride (1.061 mL of a 1.0 M solution in toluene, 1.061 mmol). The reaction mixture was stirred at −78° C. for 1 h. After this time, the reaction mixture was quenched with 10% Rochelle's salt and warmed to RT before being extracted several times with Et2O. The extract was dried over MgSO4 and concentrated to give the title compound (167 mg, 106% yield) as a yellow oil, which was used in the subsequent step without additional purification. 1H NMR (400 MHz, CDCl3) δ ppm 9.69 (1H, s), 7.16-7.21 (2H, m), 6.81-6.88 (2 H, m), 3.55 (2H, ddd, J=12.63, 3.74, 3.63 Hz), 2.80-2.87 (2H, m), 2.35-2.43 (1H, m), 1.98-2.07 (2H, m), 1.72-1.82 (2H, m).

reactant | 1-(4-chlorophenyl)-N-methoxy-N-methylpiperidine-4-carboxamide | 0.707 mmol, 200 mg | ClC1=CC=C(C=C1)N1CCC(CC1)C(=O)N(C)OC | C14H19ClN2O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Chlorophenyl)piperidine-4-carbaldehyde | 167 mg, 106% yield | ClC1=CC=C(C=C1)N1CCC(CC1)C=O | C12H14ClNO
